US05122523
1.0 g of lithium chloride was suspended in 20 ml of THF, and 5 g of ethyl 2-diethylphosphono-3-phenylpropionate was dropwise added thereto. The mixture was stirred at room temperature for seven minutes. Then, 3.6 ml of DBU was added thereto and further 11 minutes later, a suspension of 0.72 g of paraformaldehyde in THF (20 ml) was added thereto at 0° C. The mixture was stirred at room temperature overnight. Then, the mixture was neutralized with 1N hydrochloric acid, and water and ethyl acetate were added thereto. The organic layer was separated, and washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=20/1) to obtain 2.4 g of ethyl 2-benzylacrylate as colorless oily substance.

reactant | lithium chloride | 1.0 g | [Cl-].[Li+]
reactant | ethyl 2-diethylphosphono-3-phenylpropionate | 5 g | C(C)OP(=O)(OCC)C(C(=O)OCC)CC1=CC=CC=C1 | C15H23O5P
reactant | DBU | 3.6 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | paraformaldehyde | 0.72 g | C=O | CH2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 2-benzylacrylate | 2.4 g | C(C1=CC=CC=C1)C(C(=O)OCC)=C | C12H14O2
